US08791107B2
PREPARATION x39: 5-benzyl-2-chloro-6a,7,9,10-tetrahydro-[1,4]oxazino[3,4-h]pteridin-6(5H)-one
The title compound was prepared in a manner similar to PREPARATION x38 using 2-chloro-6a,7,9,10-tetrahydro-[1,4]oxazino[3,4-h]pteridin-6(5H)-one (PREPARATION x1, 500 mg, 2.078 mmol), 1M lithium bis(trimethylsiylyamide) in hexanes (2.493 mL, 2.493 mmol) and (bromomethyl)benzene (0.271 mL, 2.286 mmol) in DMF (10 mL) at 0° C. for 18 hours. 1H NMR (400 MHz, DMSO-d6) δ 2.94-3.06 (m, 1H), 3.50-3.61 (m, 1H), 3.62-3.72 (m, 1H), 3.90-3.99 (m, 1H), 4.17-4.32 (m, 2H), 4.56-4.67 (m, 1H), 5.02-5.22 (m, 2H), 7.29 (s, 5H), 7.72 (s, 1H). ESI-MS m/z [M+H]+ calc'd for C16H15ClN4O2, 331.09. found 331.2.

reactant | 2-chloro-6a,7,9,10-tetrahydro-[1,4]oxazino[3,4-h]pteridin-6(5H)-one | 2.078 mmol, 500 mg | ClC1=NC=2N3C(C(NC2C=N1)=O)COCC3 | C9H9ClN4O2
reactant | lithium | 1M | [Li] | Li
reactant | (bromomethyl)benzene | 2.286 mmol, 0.271 mL | BrCC1=CC=CC=C1 | C7H7Br
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | 5-benzyl-2-chloro-6a,7,9,10-tetrahydro-[1,4]oxazino[3,4-h]pteridin-6(5H)-one | C(C1=CC=CC=C1)N1C=2C=NC(=NC2N2C(C1=O)COCC2)Cl | C16H15ClN4O2
